US08461179B1
A solution of tert-butyl (3-(4-fluoro-2-methyl-5-(3-phenylureido)phenyl)-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)carbamate (0.2 g, 0.367 mmol) in MeOH (3 mL) was treated with HCl in dioxane (4 M, 0.916 mL, 3.67 mmol) and stirred at RT for 16 h. The mixture was concentrated to dryness, treated with pyridine (3 mL) and isopropenyl chloroformate (0.066 g, 0.550 mmol) and stirred at RT for 1 h. Water was added, the mixture stirred for several minutes, extracted with 20% THF/EtOAc (2×) and the combined organics were washed with brine, dried over Na2SO4 and concentrated to dryness. The residue was treated with 30% EtOAc/Hex, sonicated and the resulting solid collected via filtration to afford prop-1-en-2-yl (3-(4-fluoro-2-methyl-5-(3-phenylureido)phenyl)-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)carbamate (175 mg, 90% yield). 1H NMR (400 MHz, DMSO-d6): δ 10.77 (s, 1H), 9.02 (s, 1H), 8.66 (s, 1H), 8.50 (s, 1H), 8.15 (s, 1H), 7.98 (d, J=8.5 Hz, 1H), 7.85 (s, 1H), 7.41 (d, J=8.0 Hz, 2H), 7.25 (t, J=7.8 Hz, 2H), 7.15 (d, J=12.2 Hz, 1H), 6.95 (t, J=7.3 Hz, 1H), 5.33 (m, 1H), 4.81 (s, 1H), 4.77 (s, 1H), 2.07 (s, 3H), 1.96 (s, 3H), 1.56 (d, J=7.0 Hz, 6H); MS (ESI) m/z: 530.2 [M+H]+.

reactant | tert-butyl (3-(4-fluoro-2-methyl-5-(3-phenylureido)phenyl)-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)carbamate | 0.367 mmol, 0.2 g | FC1=CC(=C(C=C1NC(=O)NC1=CC=CC=C1)C=1C(N(C2=CC(=NC=C2C1)NC(OC(C)(C)C)=O)C(C)C)=O)C | C30H32FN5O4
reactant | HCl | Cl | ClH
reactant | dioxane | 3.67 mmol, 4 M, 0.916 mL | O1CCOCC1 | C4H8O2
reactant | isopropenyl chloroformate | 0.550 mmol, 0.066 g | ClC(=O)OC(=C)C | C4H5ClO2
solvent | MeOH | 3 mL | CO | CH4O
solvent | Water | O | H2O
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | prop-1-en-2-yl (3-(4-fluoro-2-methyl-5-(3-phenylureido)phenyl)-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)carbamate | 175 mg, 90% yield | FC1=CC(=C(C=C1NC(=O)NC1=CC=CC=C1)C=1C(N(C2=CC(=NC=C2C1)NC(OC(=C)C)=O)C(C)C)=O)C | C29H28FN5O4
